US06444668B1
5-(4. 4-Dimethyl-2-oxo-1. 4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-4-methyl-thiophene-2-carbonitrile
Prepared according to Procedure B from (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 5-bromo-4-methyl-2-thiophenecarbonitrile. Off-white solid: mp 195-200° C. 1H-NMR (DMSO-d6) δ10.2 (s, 1H), 8.32 (s, 1H), 7.41-7.44 (m, 2H), 7.01 (d, 1H, J=8.8 Hz), 2.28 (S, 3H), 1.64 (S, 6H); MS (APCI) m/z 299 [M+H]+. Anal. Calc. For C16H14N2O2S; C, 64.41; H, 4.75; N, 8.89. Found: C, 64.64; H, 4.62; N, 9.39.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 5-bromo-4-methyl-2-thiophenecarbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
product | 5-(4. 4-Dimethyl-2-oxo-1. 4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-4-methyl-thiophene-2-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=C(C=C(S2)C#N)C)C | C16H14N2O2S
